US08729263B2
1-(4-bromo-3-methoxyphenyl)-1H-pyrazole (28.5 g, 113 mmol), bis(pinacolato)diboron (42.9 g, 169 mmol), potassium carbonate (15.56 g, 113 mmol), and PdCl2(dppf).CH2Cl2 adduct (9.20 g, 11.26 mmol) were added to a 2 L round bottom flask, followed by addition of dioxane (700 mL). The reaction mixture was purged by N2 and stirred under N2 at an internal temp of 84° C. overnight. The reaction mixture was filtered through a disposable filter funnel and concentrated onto silica gel. The mixture was purified using column chromatography (20% EtOAc in heptanes). The desired fractions were collected and concentrated to provide 13.5 g of 1-(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazole.

reactant | 1-(4-bromo-3-methoxyphenyl)-1H-pyrazole | 113 mmol, 28.5 g | BrC1=C(C=C(C=C1)N1N=CC=C1)OC | C10H9BrN2O
reactant | bis(pinacolato)diboron | 169 mmol, 42.9 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium carbonate | 113 mmol, 15.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | 11.26 mmol, 9.20 g | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 700 mL | O1CCOCC1 | C4H8O2
product | 1-(3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazole | 13.5 g | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1N=CC=C1 | C16H21BN2O3
